US07981903B2
A yellow slurry of 5-chloro-1,8-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (578 mg, 1.162 mmol) and 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (290 mg, 1.162 mmol) in THF (110 mL) was stirred at rt for 18 h. 80 mL of the resulting mixture was treated with a 27% aqueous NH4OH solution (100 mL). The reaction mixture was stirred at rt for 4 h. EtOAc (200 mL) and a saturated NaCl solution (50 mL) were added. The organic layer was washed with a saturated NaCl solution (2×100 mL), dried (Na2SO4) and concentrated. The residue was triturated with CH2Cl2 and Et2O. The crude intermediate was taken up into dioxane (10 mL) and treated with a 1N aqueous KOH solution (3 mL, 3.00 mmol). The reaction mixture was heated at 80° C. for 1 h. EtOAc (100 mL) and a saturated NaHCO3 solution (50 mL) were added. The organic layer was washed with a saturated NaCl solution (50 mL), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-fluoro-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide as a pale yellow solid (80 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.25 (s, 6H), 3.06-3.25 (m, 4H), 3.75 (s, 3H), 4.18 (t, J=8.33 Hz, 2H), 6.75-6.94 (m, 2H), 6.98 (s, 1H), 7.18-7.34 (m, 1H), 7.84 (s, 1H), 8.05 (s, 1H), 8.14 (s, 1H), 8.45 (s, 1H), 8.60 (d, J=8.42 Hz, 1H), 10.26 (s, 1H), 11.02 (s, 1H); ESIMS (M+H)+=537.27.

reactant | 5-chloro-1,8-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 1.162 mmol, 578 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C(=CN2S(=O)(=O)C2=CC=C(C=C2)C)F
reactant | 1-[(dimethylamino)acetyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 1.162 mmol, 290 mg | CN(C)CC(=O)N1CCC2=CC(=C(C=C12)N)OC | C13H19N3O2
reactant | NH4OH | 100 mL | [NH4+].[OH-]
reactant | NaCl | 50 mL | [Na+].[Cl-]
reactant | KOH | 3.00 mmol, 1N, 3 mL | [OH-].[K+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-5-fluoro-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 80 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2F)NC2=C(C(=O)N)C(=CC=C2)F)OC)C | C26H26F2N8O3
